US06306860B1
Step (1): Preparation of 5-(N-isopropylcarbamoyl)-2-[1-(3-nitro-2-pyridyl)piperazin-4-yl-carbonyl]pyridine
Triethylamine (0.85 ml) was added to 6-[1-(3-nitro-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid (2 g) in methylene chloride (25 ml) for dissolution and cooled. With the slow addition of pivaloyl chloride (0.7 ml) at 0° C.˜5° C., the mixture was stirred at 5° C.˜10° C. for 2 hours. With the addition of N,N-diisopropylethylamine (1.1 ml) and isopropylamine (0.55 ml), the mixture was stirred at 10° C.˜15° C. for 3 hours. The reaction mixture was washed with an aqueous sodium bicarbonate and water twice. The separated organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in chloroform (15 ml) and with the slow addition of ether, crystals were precipitated. For 2-hours stirring, the precipitate was filtered, washed (ether) and dried to give a desired compound of 1.74 g (yield: 78%).

reactant | 6-[1-(3-nitro-2-pyridyl)piperazin-4-yl-carbonyl]nicotinic acid | 2 g | [N+](=O)([O-])C=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C16H15N5O5
reactant | pivaloyl chloride | 0.7 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | N,N-diisopropylethylamine | 1.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isopropylamine | 0.55 ml | C(C)(C)N | C3H9N
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | Triethylamine | 0.85 ml | C(C)N(CC)CC | C6H15N
product | 5-(N-isopropylcarbamoyl)-2-[1-(3-nitro-2-pyridyl)piperazin-4-yl-carbonyl]pyridine | yield: 78% | C(C)(C)NC(=O)C=1C=CC(=NC1)C(=O)N1CCN(CC1)C1=NC=CC=C1[N+](=O)[O-] | C19H22N6O4
